US06248775B1
Part A: Preparation of N-(2,6Dimethylphenyl)glycine
2,6-Dimethylaniline (6.1 g, 50.4 mmol), and ethyl bromoacetate (8.4 g, 50.4 mmol) were refluxed neat for 10 min. The reaction mixture was cooled to room temperature and poured into dichloromethane (75 mL). A precipitated formed which was collected and triturated with dichloromethane (25 mL). N-(2,6-Dimethylphenyl)glycine hydrobromide salt (1.21 g, 4.6 mmol, 9.0%) was collected as a white crystalline solid. 1H NMR (CD3OD) d 2.48 (s, 6H), 4.29 (s, 2H), 7.00-7.10 (m, 3H).

reactant | 2,6-Dimethylaniline | 50.4 mmol, 6.1 g | CC1=C(N)C(=CC=C1)C | C8H11N
reactant | ethyl bromoacetate | 50.4 mmol, 8.4 g | BrCC(=O)OCC | C4H7BrO2
reactant | N-(2,6-Dimethylphenyl)glycine hydrobromide salt | 4.6 mmol, 1.21 g | Br.CC1=C(C(=CC=C1)C)NCC(=O)O
solvent | dichloromethane | 75 mL | ClCCl | CH2Cl2
product | N-(2,6Dimethylphenyl)glycine | CC1=C(C(=CC=C1)C)NCC(=O)O | C10H13NO2
